US05041448
A mixture of 2 parts of 1-(2-chloroethyl)-4-methoxybenzene, 3.1 parts of N-(4-piperidinyl)-9-(2-pyridinylmethyl)-9H-purin-8-amine, 1.5 parts of sodium carbonate and 45 parts of N,N-dimethylformamide was stirred overnight at 70° C. The reaction mixture was poured into water. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 2.2 parts (50%) of N-[1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]-9-(2-pyridinylmethyl)-9H-purin-8-amine; mp. 144.5° C. (compound 74).

reactant | 1-(2-chloroethyl)-4-methoxybenzene | ClCCC1=CC=C(C=C1)OC | C9H11ClO
reactant | N-(4-piperidinyl)-9-(2-pyridinylmethyl)-9H-purin-8-amine | N1CCC(CC1)NC=1N(C2=NC=NC=C2N1)CC1=NC=CC=C1 | C16H19N7
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]-9-(2-pyridinylmethyl)-9H-purin-8-amine | 50% | COC1=CC=C(C=C1)CCN1CCC(CC1)NC=1N(C2=NC=NC=C2N1)CC1=NC=CC=C1 | C25H29N7O
